US07825256B2
A solution of benzo[1,3]dioxol-5-ylmethyl-{2-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethylamino]-ethyl}-carbamic acid tert-butyl ester (155 mg, 0.320 mmol) in DCM/TFA (50%, 5 mL) was stirred for 0.5 h. The solvent was evaporated and sat. aqueous K2CO3 solution was added. The mixture was extracted with ethyl acetate, washed with brine and dried over Na2SO4. Evaporation of the solvent gave 110 mg (90%) of N-benzo[1,3]dioxol-5-ylmethyl-N′-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethyl]-ethane-1,2-diamine as a red oil. [M+H]+ 380.96; 1H-NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 7.87 (s, 1H), 7.09 (s, 1H), 7.05 (s, 1H), 6.79 (s, 1H), 6.71 (s, 2H), 5.90 (s, 2H), 3.74 (q, 1H), 3.66 (s, 2H), 2.70-2.50 (m, 6H), 2.2 (br s, 2H), 1.37 (d, 3H); 13C-NMR (100 MHz, CDCl3) δ 175.6, 170.0, 154.6, 147.9, 146.8, 136.4, 134.2, 130.5, 121.4, 116.8, 115.6, 108.8, 108.3, 101.1, 58.8, 53.8, 48.9, 47.4, 24.4, 22.4.

reactant | benzo[1,3]dioxol-5-ylmethyl-{2-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethylamino]-ethyl}-carbamic acid tert-butyl ester | 0.320 mmol, 155 mg | C(C)(C)(C)OC(N(CCNC(C)C1=NC(=NC(=C1)C)N1C=NC=C1)CC1=CC2=C(OCO2)C=C1)=O | C25H32N6O4
solvent | DCM TFA | 5 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | N-benzo[1,3]dioxol-5-ylmethyl-N′-[1-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-ethyl]-ethane-1,2-diamine | 110 mg, 90% | O1COC2=C1C=CC(=C2)CNCCNC(C)C2=NC(=NC(=C2)C)N2C=NC=C2 | C20H24N6O2
